US07344702B2
Synthesis of 4-(4-methylphenyl)-butyl tert-butyldimetylsilyl ether
4-(4-Methylphenyl) butanol (0.5 g, 3.04 mmol) is dissolved in 5 ml DMF and to it is added imidazole (310 mg, 4.56 mmol) and tert-butyldimethylsilyl chloride (685 mg, 4.56 mmol). The reaction is stirred for 4 hrs after which it is extracted in ethyl acetate and washed with water to remove all DMF. The organic layer is then dried and concentrated. The crude mixture is then purified by flash chromatography using a mixture of ethyl acetate-hexanes as the eluting medium to afford the above mentioned product.

reactant | 4-(4-Methylphenyl) butanol | 3.04 mmol, 0.5 g | CC1=CC=C(C=C1)CCCCO | C11H16O
reactant | imidazole | 4.56 mmol, 310 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 4.56 mmol, 685 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(4-methylphenyl)-butyl tert-butyldimetylsilyl ether | [Si](C)(C)(C(C)(C)C)OCCCCC1=CC=C(C=C1)C | C17H30OSi
